US04346088
3-n-Butyl-4-(4-chloro-3-dimethylsulfamoylphenyl)-2-(2-methylphenyl-imino)-4-thiazoline hydrobromide
Obtained (a) by a procedure analogous to that indicated in Example 1(a), from 3-n-butyl-1-phenylthiourea and 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone, or (b) from 3-n-butyl-4-(4-chloro-3-dimethylsulfamoylphenyl)-2-(2-methylphenyl-imino)-thiazolidin-4-ol hydrobromide. Colorless crystals; melting point 238° C.

reactant | 3-n-butyl-1-phenylthiourea | C(CCC)NC(NC1=CC=CC=C1)=S | C11H16N2S
reactant | 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O | C10H11BrClNO3S
reactant | 3-n-butyl-4-(4-chloro-3-dimethylsulfamoylphenyl)-2-(2-methylphenyl-imino)-thiazolidin-4-ol hydrobromide | Br.C(CCC)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)=NC1=C(C=CC=C1)C
product | 3-n-Butyl-4-(4-chloro-3-dimethylsulfamoylphenyl)-2-(2-methylphenyl-imino)-4-thiazoline hydrobromide | Br.C(CCC)N1C(SC=C1C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)=NC1=C(C=CC=C1)C | InChI=1S/C22H26ClN3O2S2.BrH/c1-5-6-13-26-20(15-29-22(26)24-19-10-8-7-9-16(19)2)17-11-12-18(23)21(14-17)30(27,28)25(3)4;/h7-12,14-15H,5-6,13H2,1-4H3;1H
